MM8 (net9 net9 VSS VSS) nmos4
MM7 (VOUT1 net9 VSS VSS) nmos4
MM3 (net20 VSS net16 VSS) nmos4
MM0 (net11 net12 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (VOUT1 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM1 (net1005 net1005 VSS VSS) nmos4
MM0 (VB1 net6 VSS VSS) nmos4
MM8 (net6 net6 VSS VSS) nmos4
MM2 (net1005 VB1 VDD VDD) pmos4
MM3 (VB1 VB1 VDD VDD) pmos4
MM10 (net6 net1006 VDD VDD) pmos4
RR1 (net1006 VSS) resistor
MM2 (net1006 net1006 VDD VDD) pmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor